US08445530B2
3-(1,3-Dihydroxy-3-m-tolyl-propyl)-4-methoxy-benzoic acid methyl ester
3-Acetyl-4-methoxy-benzoic acid methyl ester (150 mg, 0.720 mmol) was dissolved in THF (3 ml), cooled to −78° C., and a freshly prepared solution of lithium diisopropylamide (obtained by addition of n-butyllithium in n-hexane (0.317 ml, 2.5 M solution) to diisopropylamine (80.1 mg, 0.792 mmol) in THF (3 ml) at 0° C. and stirring for 10 min) was slowly added with stirring. After 10 min, 3-methylbenzaldehyde (86.5 mg, 0.720 mmol) was added at −78° C. After 30 min at −78° C., 2 N hydrochloric acid and EA were added, the cooling bath was removed, the mixture was brought to room temperature. The phases were separated, the aqueous phase was extracted three times with EA, the combined organic extracts were dried over sodium chloride, decanted and evaporated to dryness. The residue was dissolved in methanol (5 ml), sodium borohydride (28.7 mg, 0.761 mmol) was added, and the mixture was stirred at room temperature for 30 min. The mixture was evaporated to dryness and the residue was purified by silica gel chromatography (HEP/EA gradient) to give 140 mg of the title compound as a mixture of diastereomers.

reactant | 3-Acetyl-4-methoxy-benzoic acid methyl ester | 0.720 mmol, 150 mg | COC(C1=CC(=C(C=C1)OC)C(C)=O)=O | C11H12O4
reactant | lithium diisopropylamide | 0.792 mmol, 2.5 M, 0.317 ml, 80.1 mg | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methylbenzaldehyde | 0.720 mmol, 86.5 mg | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | sodium borohydride | 0.761 mmol, 28.7 mg | [BH4-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | 3-(1,3-Dihydroxy-3-m-tolyl-propyl)-4-methoxy-benzoic acid methyl ester | 140 mg | COC(C1=CC(=C(C=C1)OC)C(CC(C=1C=C(C=CC1)C)O)O)=O | C19H22O5
